US06420375B1
Preparation of 1-[3-(2-naphthyl)-2-propynyl]-1H-imidazole
To a cooled (0° C.) solution of 3-(2-naphthyl)-2-propyn-1-ol (2.67 g) in THF (100 ml) were added triethylamine (4.1 ml) and methanesulfonyl chloride (1.7 ml) successively. The mixture was stirred at room temperature for 1 hours. Imidazole (3.02 g) and NaI (0.5 g) were added to the mixture and resulting mixture was stirred at 60° C. for 3 hours. To the mixture was added water, and the mixture was concentrated. The residue was extracted with ethyl acetate. The extract was washed with water and brine, dried and concentrated. The residue was chromatographed on silica gel, eluting with ethyl acetate, followed by crystallization from cyclohexane to give the titled compound (1.05 g) as a colorless solid.

reactant | 3-(2-naphthyl)-2-propyn-1-ol | 2.67 g | C1=C(C=CC2=CC=CC=C12)C#CCO | C13H10O
reactant | methanesulfonyl chloride | 1.7 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Imidazole | 3.02 g | N1C=NC=C1 | C3H4N2
reactant | NaI | 0.5 g | [Na+].[I-]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | triethylamine | 4.1 ml | C(C)N(CC)CC | C6H15N
product | 1-[3-(2-naphthyl)-2-propynyl]-1H-imidazole | 1.05 g | C1=C(C=CC2=CC=CC=C12)C#CCN1C=NC=C1 | C16H12N2
